US05093370
To a solution of 14.3-7g of 6 chloro-1-hexanol and 10.39 g of dihydropyran in 30 ml of methylene chloride was added 0.95 g of tosic acid monohydrate, and the mixture was stirred at room temperature for 18 hours, poured into 50 ml of a saturated sodium bicarbonate aqueous solution, stirred for 10 minutes and extracted three times with 100 ml of chloroform. The extracts were combined, washed with a saturated sodium bicarbonate aqueous solution and a saturated sodium chloride aqueous solution, dried over magnesium sulfate, concentrated under a reduced pressure and dried in vacuo. The orange-colored oil thus obtained was vacuum-distilled to obtain 17.43 g of 2-(6-chlorohexyloxy)tetrahydropyran as a colorless oil.

reactant | chloro-1-hexanol | ClC(CCCCC)O | C6H13ClO
reactant | dihydropyran | 10.39 g | O1CCCC=C1 | C5H8O
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-(6-chlorohexyloxy)tetrahydropyran | 17.43 g | ClCCCCCCOC1OCCCC1 | C11H21ClO2
